US05077409
4-(2-Methyl-1H-imidazol-1-yl)benzenamine
A mixture of 54.0 g of 2-methyl-1-(p-nitrophenyl)imidazole, 2.87 g of palladium black, 36 7 g of sodium formate and 47.4 ml of formic acid in 1100 ml of methyl alcohol is stirred at room temperature for 18 hours under a hydrogen atmosphere. The mixture is filtered and the filtrate evaporated to a residue. The residue is partitioned between saturated potassium bicarbonate and chloroform. The organic layer is dried and passed through a pad of hydrous magnesium silicate. The filtrate is evaporated to a residue which is crystallized from ether:ethanol to give 34.9 g of the desired product as a solid, m.p. 108°-110° C.

reactant | 2-methyl-1-(p-nitrophenyl)imidazole | 54.0 g | CC=1N(C=CN1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O2
reactant | sodium formate | C(=O)[O-].[Na+]
reactant | formic acid | 47.4 ml | C(=O)O | CH2O2
solvent | methyl alcohol | 1100 ml | CO | CH4O
catalyst | palladium black | 2.87 g | [Pd] | Pd
product | 4-(2-Methyl-1H-imidazol-1-yl)benzenamine | 34.9 g | CC=1N(C=CN1)C1=CC=C(C=C1)N | C10H11N3
